US04980287
A solution was prepared by dissolving 13.08 g of 2-carboisopropoxyamino-4-nitrobenzoic acid in 200 ml of ethyl alcohol and was mixed with 3 g of a 10% palladium-carbon catalyst. The resultant reaction mixture was stirred at room temperature in a hydrogen gas atmosphere for 2 hours. Then, the reaction mixture was filtered through a Celite filter and the catalyst on the Celite filter was washed with ethyl alcohol. The entire amount of the filtrate was collected, concentrated and dried under a reduced pressure, and the resultant crude product was recrystallized from an ethyl alcohol-water mixed solvent. The resultant 4-amino-2-carboisopropoxyaminobenzoic acid was obtained in a yield of 11.3 g and exhibited a melting point of 197° C.

reactant | 2-carboisopropoxyamino-4-nitrobenzoic acid | 13.08 g | C(=O)(OC(C)C)NC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C11H12N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 4-amino-2-carboisopropoxyaminobenzoic acid | NC1=CC(=C(C(=O)O)C=C1)NC(=O)OC(C)C | C11H14N2O4
